### ISSUE TITLE
`grind` fails to solve a trivial goal involving a structure containing a function

### ISSUE THREAD

**Issue by TWal** [leanprover/lean4#11309]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`grind` fails to solve a trivial goal involving a structure containing a function

```lean4
-- grind fails with structure + thunk
namespace WithStructure

structure Test where
  apply: Unit → Prop

def test : Test := {
  apply := fun () => True
}

example : test.apply () := by
  fail_if_success grind [test]
  unfold test
  grind

end WithStructure

-- grind succeeds without the thunk
namespace WithoutThunk

structure Test where
  apply: Prop

def test : Test := {
  apply := True
}

example : test.apply := by
  grind [test]

end WithoutThunk

-- grind succeeds without structure
namespace WithoutStructure

def Test := Unit → Prop

def test : Test := fun () => True

example : test () := by
  grind [test]

end WithoutStructure
```

Weirdly, the `grind` that fails do contain this equivalence class: `{test, { apply := fun x => True }} `

### Steps to Reproduce

**Expected behavior:** the `grind` under `fail_if_success` should succeed

**Actual behavior:** this `grind` fails

### Versions

"4.26.0-rc2" (and reproduces on nightly)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TWal** [comment]
Thinking more about this issue, it is probably the same root cause as the one discussed on [this zulip thread](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/grind.20congruence.20closure.20fails/near/536398074)
